US09085637B2
1 M Solution of borane-tetrahydrofuran complex in tetrahydrofuran (52 mL, 52.0 mmol) was added dropwise to a solution of tetradecanedioic acid mono-tert-butyl ester (10.0 g, 31.9 mmol) in dry tetrahydrofuran (75 mL) at 0 C under argon. The resulting solution was stirred at 0 C for 2 hrs, then the cooling bath was removed and the mixture stirred at room temperature overnight. Saturated aqueous solution of sodium hydrogencarbonate (150 mL) was added and the resulting mixture was extracted with dichloromethane (3×100 mL). Combined organic extracts were extracted with 5% aqueous solution of sodium carbonate (1×150 mL) and 10% aqueous solution citric acid (1×100 mL). Combined organic extracts were dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was subjected to column chromatography (Silicagel 60A, 0.060-0.200 mm; eluent: dichloromethane/methanol 100:0-99:1) to give 14-hydroxy-tetradecanoic acid tert-butyl ester as yellowish oil.

reactant | tetradecanedioic acid mono-tert-butyl ester | 31.9 mmol, 10.0 g | C(C)(C)(C)OC(CCCCCCCCCCCCC(=O)O)=O | C18H34O4
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 52.0 mmol, 52 mL | O1CCCC1 | C4H8O
product | 14-hydroxy-tetradecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCO)=O | C18H36O3
